US07820707B2
a) 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (500 mg, 2.55 mmol) and triethylamine (0.35 mL, 2.55 mmol) were stirred in DCM (10 mL). Bromoacetylbromide was added dropwise under a nitrogen atmosphere. Stirring was continued for 3 h. 2 M HCl (20 mL) was added and the reaction mixture extracted into DCM (3×50 mL). The combined DCM layers were washed with brine, dried over MgSO4, filtered and the solvent removed in vacuo to give the desired product as a cream solid (760 mg, 2.40 mmol, 94%).

reactant | 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.55 mmol, 500 mg | NC1=C(C2=C(S1)CCCC2)C(=O)N | C9H12N2OS
reactant | triethylamine | 2.55 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | Bromoacetylbromide | BrCC(=O)Br | C2H2Br2O
reactant | HCl | 2 M, 20 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.40 mmol, 760 mg, 94% | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C11H13BrN2O2S
